US08084448B2
C. 5-[4-(2-Benzoylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[4-(2-benzoylbutyl)-2-benzyloxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (45 mg) in 4 mL of EtOH/water (1:1) is hydrogenated over Degussa 5% Pd/C (7 mg) at 1 atm for 6 h. The catalyst is filtered and the solvent is removed under reduced pressure to give the title compound: (M−1)−=387. HPLC retention time=0.60 min (Method C).

reactant | 5-[4-(2-benzoylbutyl)-2-benzyloxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 45 mg | [K].C(C1=CC=CC=C1)(=O)C(CC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1)CC
solvent | EtOH water | 4 mL | CCO.O
catalyst | Pd/C | 7 mg | [Pd] | Pd
product | 5-[4-(2-Benzoylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)(=O)C(CC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O)CC | C19H20N2O5S
